US05981533
0.05 ml (1.00 mmol) of hydrazine hydrate is added dropwise to 245.3 mg (1.00 mmol) of 3-(4-nitrophenyl)-3-methylmercapto-2-cyano-acrylonitrile in 1.3 ml of methanol and the reaction mixture is then boiled for 8 hours and then concentrated by evaporation. The residue is stirred with ethyl acetate and filtered, yielding 5-amino-3-(4-nitrophenyl)-1H-pyrazole-4-carbonitrile; TLC: Rf =0.14 (ethyl acetate:hexane=1:1).

reactant | hydrazine hydrate | 1.00 mmol, 0.05 ml | O.NN
reactant | 3-(4-nitrophenyl)-3-methylmercapto-2-cyano-acrylonitrile | 1.00 mmol, 245.3 mg | [N+](=O)([O-])C1=CC=C(C=C1)C(=C(C#N)C#N)SC | C11H7N3O2S
solvent | methanol | 1.3 ml | CO | CH4O
product | 5-amino-3-(4-nitrophenyl)-1H-pyrazole-4-carbonitrile | NC1=C(C(=NN1)C1=CC=C(C=C1)[N+](=O)[O-])C#N | C10H7N5O2
